US06498251B1
Synthesis Example 4a (The Inventive Compound) 2a-[4-(6-Hydroxy-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indol-2-yl)-butyl]-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one
A 1.3 ml portion of dichloromethane solution containing 68 mg (0.16 mmol) of 2a-[4-(6-methoxy-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indol-2-yl)butyl]-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one was cooled to 0° C. and mixed with 0.2 ml of dichloramethane solution containing 45 μl (0.48 mmol) of boron tribromide. After 6 hours of stirring at room temperature, the reaction solution was extracted with a solution of chloroform-methanol=5:1 and washed with sodium bicarbonate aqueous solution. After drying (Na2SO4), the solvent was removed by evaporation under a reduced pressure and the residue was recrystallized from methanol-ethyl acetate to obtain 20 mg of the title compound (30% in yield).

reactant | 2a-[4-(6-methoxy-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indol-2-yl)butyl]-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one | 0.16 mmol, 68 mg | COC=1C=C2C3=C(NC2=CC1)CN(CC3)CCCCC31C(NC=2C=CC=C(C32)CCC1)=O | C27H31N3O2
reactant | boron tribromide | 0.48 mmol, 45 μl | B(Br)(Br)Br | BBr3
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2a-[4-(6-Hydroxy-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indol-2-yl)-butyl]-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one | 20 mg, 30% | OC=1C=C2C3=C(NC2=CC1)CN(CC3)CCCCC31C(NC=2C=CC=C(C32)CCC1)=O | C26H29N3O2
